US05064861
STEP B: N-(tert-butoxycarbonyl)-N'-(2,4-dichlorophenoxy acetyl)-1,4-diamino butane
11 g of 2,4-dichlorophenoxy-acetic acid chloride in solution in 40 ml of methylene chloride were added without exceeding 25° C. to a mixture of 8.6 g of N-(tert-butoxycarbonyl)-1,4-diamino-butane, 120 ml of methylene chloride and 7 ml of triethylamine and the mixture was stirred for 30 minutes, then concentrated to dryness under reduced pressure. The residue was taken up in 200 ml of tetrahydrofuran and the insoluble part was filtered off. The filtrate was evaporated to dryness under reduced pressure to obtain 18.53 g of crude product melting at 107° C. which was crystallized from 740 ml of isopropyl ether to obtain 17.43 g of the expected product melting at 110° C. 5.39 g were chromatographed on silica (eluant: hexane-ethyl acetate (6-4)) to obtain 4.48 g of the sought product melting at 114° C.

reactant | 2,4-dichlorophenoxy-acetic acid chloride | 11 g | ClC1=C(OCC(=O)Cl)C=CC(=C1)Cl | C8H5Cl3O2
reactant | N-(tert-butoxycarbonyl)-1,4-diamino-butane | 8.6 g | C(C)(C)(C)OC(=O)NCCCCN | C9H20N2O2
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | N-(tert-butoxycarbonyl)-N'-(2,4-dichlorophenoxy acetyl)-1,4-diamino butane | 17.43 g | C(C)(C)(C)OC(=O)NCCCCNC(COC1=C(C=C(C=C1)Cl)Cl)=O | C17H24Cl2N2O4
